### PR TITLE
Adding some trigonometry in realType

### PR DESCRIPTION
**Pull request by thery**
This is just an attempt and is not meant to be merged.

We have added an extra file in `exp.v` that contains the defs of functions like `exp` `sin`and `cos`.

NB: lemma ~~`sum_group`~~ (now `big_nat_mul`) submitted to mathcomp (https://github.com/math-comp/math-comp/pull/782)

NB: lemmas ~~`divr_eq`~~ (now `eqr_div`) and `sqrtrV` submitted to mathcomp (https://github.com/math-comp/math-comp/pull/789)

### CODE REVIEW

**Comment by thery** [comment]
Don't understand why the CI fails, it works on my machine. 
I cannot do a `Require Import Nsatz` because there is a Notation clash on `-->` 
but the tactic should be there

**Comment by CohenCyril** [comment]
Looks really promising to me :)

File: theories/exp.v [hunk 1]
```diff
@@ -0,0 +1,1138 @@
...
+Proof.
+by move=> Cfg Cg; have := cvgD Cfg Cg; rewrite subrK add0r; apply.
+Qed.
+
+Lemma cvg_zero f a : (f - cst a) @ F --> (0 : V) -> f @ F --> a.
+Proof. by move=> Cfa; apply: cvg_sub0 Cfa (cvg_cst _). Qed.
+
+Lemma cvg_equiv (f g : T -> V) (a : V) :
+  {near F, f =1 g} -> f x @[x --> F] --> a -> g x @[x --> F] --> a.
+Proof. by move=> /near_eq_cvg; exact: cvg_trans. Qed.
```
Comment (CohenCyril) [inline theories/exp.v:45]: I would have expected  `f ~_F g -> f @ F --> a -> g @ F --> a` with this name.
(BTW `f x @[x --> F]` is denoted `f @ F`, isn't it displayed that way?)

I guess `near_eq_cvg_trans` would be a more meaningful name to me for this lemma

Comment (CohenCyril) [reply theories/exp.v:45]: But is it really needed? (given it's just `near_eq_cvg` + `cvg_trans`)

Comment (thery) [reply theories/exp.v]: done

File: theories/exp.v [hunk 2]
```diff
@@ -341,73 +345,55 @@ by rewrite -!predn_sub subKn // -subnS.
...
-  by rewrite (leq_ltn_trans _ (ltn_ord i)).
-apply: le_trans (ler_norm_sum _ _ _) _.
-rewrite -{2}[d.+1]subn0 mulr_natl -sumr_const_nat.
-rewrite !big_mkord; apply: ler_sum => j _.
-rewrite -{4}(subnK (_ : j <= d)%nat) -1?ltnS // addnC exprD normrM.
-by apply: ler_pmul; rewrite // normrX ler_expn2r ?qualifE.
+  by rewrite ler_nat ltnS /d -subn1 -subnDA leq_subr.
+rewrite (le_trans (ler_norm_sum _ _ _))//.
+rewrite mulr_natl -[X in _ *+ X]subn0 -sumr_const_nat ler_sum_nat//= => j jd1.
+rewrite -{2}(subnK (_ : j <= d)%nat) -1?ltnS // addnC exprD normrM.
```
Comment (CohenCyril) [inline theories/exp.v:373]: Please refrain from using numbered occurrences in final scripts.  (here `{2}`)

Comment (thery) [reply theories/exp.v]: should be ok now

**Comment by thery** [comment]
This PR depends on #385. As soon as it is merged we can remove the file `inverse_continuous.v`

**Comment by affeldt-aist** [comment]
Should we try to submit `sqrtrV` and `divr_eq` to MathComp before its 1.13 release?

**Comment by thery** [comment]
the CI seems very unstable I get some timeout

**Comment by thery** [comment]
they propose to install `z3`, life is tough!

**Comment by affeldt-aist** [comment]
I made a last pass and hopefully addressed comments from the last meeting. Ready to merge.

**Comment by CohenCyril** [comment]
45 commits :cry:

**Comment by CohenCyril** [comment]
> 45 commits cry

next time, please squash

**Comment by thery** [comment]
@CohenCyril can't we configure github so that it automatically squash merge?

**Comment by CohenCyril** [comment]
> @CohenCyril can't we configure github so that it automatically squashes merge?

Not that I know of...

**Comment by thery** [comment]
@CohenCyril it seems it is possible : 
https://docs.github.com/en/repositories/configuring-branches-and-merges-in-your-repository/configuring-pull-request-merges/configuring-commit-squashing-for-pull-requests

**Comment by affeldt-aist** [comment]
Note that several contiguous commits were actually squashed before merge (commits that were just minor fixes or that were actually incremental progress).

**Comment by thery** [comment]
@CohenCyril it seems it is possible : 
https://docs.github.com/en/repositories/configuring-branches-and-merges-in-your-repository/configuring-pull-request-merges/configuring-commit-squashing-for-pull-requests
